US08633175B2
Step 2: 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-methyl]-3-biphenylcarboxylic acid
A mixture of methyl 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}-amino)methyl]-3-biphenylcarboxylate (0.850 g; 1.88 mmol), LiOH.H2O (0.395 g; 9.40 mmol), water (2 mL) and THF (20 mL) was heated under reflux for 24 h, cooled and concentrated in vacuo. The residue was partitioned between EtOAc/1N KHSO4, layers were separated and the organic layer was extracted with EtOAc (×2). combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo affording the title compound as a colorless foam. LC/MS (method E) tR 0.77 min; m/z 464 (M−H).

reactant | methyl 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}-amino)methyl]-3-biphenylcarboxylate | 1.88 mmol, 0.850 g | CC1(CCC(CC1)N(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OC)C | C28H37NO4
reactant | LiOH.H2O | 9.40 mmol, 0.395 g | O[Li].O
reactant | water | 2 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-methyl]-3-biphenylcarboxylic acid | CC1(CCC(CC1)N(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O)C | C27H35NO4
